US05545509
Preparation of t-butyl 2-cyano-2-(p-vinylphenyl)-butyrate
To an ice-cooled solution of 2-cyano-2(p-vinylphenyl)-butanoic acid (3 g, 0.014 mol) in benzene (100 mL) was added oxalyl chloride (5.3 g, 0.042 mol). The solution was cooled in an ice-bath and five drops of DMF was added to catalyze the acyl chloride formation. After being stirred at room-temperature for 4 h, all the solvent and excess oxalyl chloride was removed under reduced pressure. The crude acyl chloride was then taken up with small amount of benzene, filtered, concentrated, re-dissolved in CH2Cl2 (10 mL) and cooled in an ice-bath. To the solution, solutions of pyridine (3.2 g 0.042 mol) in CH2Cl2 and tert-butanol (5.2 g, 0.07 mol) in CH2Cl2 (5 mL) were added. After addition, the solution mixture was stirred at room-temperature for 6 h and quenched with diluted HCl (1%, 500-600 mL). The organic layer was separated, washed and saturated K2CO3 and NaCl solutions, dried over anhydrous Na2SO4, concentrated under reduced pressure and purified by liquid chromatography on silica gel with EtOAc-hexanes (1:9) as an eluent to provide an essentially pure product (2.6 g, 70%).

reactant | 2-cyano-2(p-vinylphenyl)-butanoic acid | 0.014 mol, 3 g | C(#N)C(C(=O)O)(CC)C1=CC=C(C=C1)C=C | C13H13NO2
reactant | oxalyl chloride | 0.042 mol, 5.3 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyridine | 0.042 mol, 3.2 g | N1=CC=CC=C1 | C5H5N
reactant | tert-butanol | 0.07 mol, 5.2 g | C(C)(C)(C)O | C4H10O
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
catalyst | DMF | five drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | t-butyl 2-cyano-2-(p-vinylphenyl)-butyrate | 2.6 g, 70% | C(#N)C(C(=O)OC(C)(C)C)(CC)C1=CC=C(C=C1)C=C | C17H21NO2
